US09125808B2
Synthetic Preparation 1: 2-hydroxybutyl methacrylate (HBMA)
A blend of 72 grams 1,2-epoxybutane (Aldrich), 0.85 g 4-methoxyphenol (Aldrich), and 6.5 g potassium hydroxide was stirred in a 500 ml round bottomed flask equipped with an addition funnel and thermocouple thermometer. 172 g methacrylic acid was added via the addition funnel, and the blend was slowly to 75° C., and stirred overnight under an air, then increased to 88° C. for 4 hours. The mixture was cooled, and 700 ml of 2.0 N NaOH was added to the mixture in a separatory funnel. The upper layer was washed with borate buffered saline three times. Ethyl ether (200 ml) was added to the combined saline washes to extract any product. The combined organic layers were dried over NaSO4. The NaSO4 was filtered out and the product was distilled (90-98° C./˜4 mm Hg). 17.5 g product was collected, to which was added 4 mg 4-methoxyphenol. 1H NMR: 6.1 ppm (1H, m), 5.5 (1H, m), 4.8 (0.25H m), 4.2 (0.64 H, dd, 8.1 and 11.7 Hz), 4.0 (0.64 Hz, dd, 6.9 and 11.4 Hz), 3.6-3.8 1.26H, m), 2.3 (OH, br s), 1.9 (3H, m), 1.4-1.7 (2H, m), 0.9 (3H, m); consistent with a blend of 2-hydroxy-1-propylmethacrylate and 1-hydroxy-2-propylmethacrylate.

reactant | 1,2-epoxybutane | 72 grams | O1CC1CC | C4H8O
reactant | 4-methoxyphenol | 0.85 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium hydroxide | 6.5 g | [OH-].[K+]
reactant | methacrylic acid | 172 g | C(C(=C)C)(=O)O | C4H6O2
solvent | NaOH | 2.0 N, 700 ml | [OH-].[Na+]
product | 2-hydroxybutyl methacrylate | C(C(=C)C)(=O)OCC(CC)O | C8H14O3
